datasets/10k_Mayr_OG.csv
SMILES Labelled
"[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1.[O+]#C[W-3:11]1234(C#[O+])(C#[O+])([H:10])C5C1C2C3C54>>[H:10][C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1.[O+]#C[W-2:11]1234(C#[O+])(C#[O+])C5C1C2C3C54 10,11=10,20"
"CC1=CC=C([S:32](/[N:21]=[CH:20]/[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1.C[C:81]([C-:10]1CCC[O:72][C:61]1=[O:62])=[O:82]>>CC1=CC=C([S:32]([N-:21][CH:20]([C:10]2([C:81](C)=[O:82])CCC[O:72][C:61]2=[O:62])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)(=[O:33])=[O:34])C=C1 10=20;20,21=21"
"C1=CC=C([C+:20]2[S:31]CCC[S:41]2)C=C1.C[Si:11](C)([H:10])[C:62]1=[CH:63][CH:64]=[C:65](C)[CH:66]=[CH:67]1>>C1=CC=C([C:20]2([H:10])[S:31]CCC[S:41]2)C=C1.C[Si+:11](C)[C:62]1=[CH:63][CH:64]=[C:65](C)[CH:66]=[CH:67]1 10,11=10,20"
"C1COC2(CC[C:20](=[O:21])CC2)O1.[Cl-:10]>>C1COC2(CC[C:20]([Cl:10])([O-:21])CC2)O1 10=20;20,21=21"
"CC1=CC=C([S:32]([N:21]=[C:20]=[O:52])(=[O:33])=[O:43])C=C1.CC1=CC=[C:10]([B-:11]23[N+:62](C)(C[C:73](=[O:74])[O:72]2)C[C:83](=[O:84])[O:82]3)O1>>CC1=CC=C([S:32]([N-:21][C:20]([C:10]2=CC=C(C)O2)=[O:52])(=[O:33])=[O:43])C=C1.C[N+:62]12C[C:73](=[O:74])[O:72][B:11]1[O:82][C:83](=[O:84])C2 10,11=10,20;20,21=21"
"[CH:20](=[C:21]([C:22]#[N:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1.[O:10]=[C:11]1[C:12](=[N+:13]([O-:14])[O-:64])[CH:73]=[CH:74][CH:75]=[CH:76]1>>[O:10]([C:11]1=[C:12]([N+:13](=[O:14])[O-:64])[CH:73]=[CH:74][CH:75]=[CH:76]1)[CH:20]([C:21](=[C:22]=[N-:23])[C:32]#[N:33])[C:41]1=[CH:42][CH:43]=[CH:44][CH:46]=[CH:45]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C1C[N:10]=[C:11]2[N:12](C1)CCC[S:62]2.C[C:32]1=[N+:21]([F:20])[C:42](C)=[CH:43][C:34](C)=[CH:33]1>>C1C[N:10]([F:20])[C:11]2=[N+:12](C1)CCC[S:62]2.C[C:32]1=[N:21][C:42](C)=[CH:43][C:34](C)=[CH:33]1 10,11=10,20;12=11,12;20,21=21"
"C[C:11]1([H:10])[O:12]CC[O:62]1.C[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>C[C:11]1=[O+:12]CC[O:62]1.C[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1=CC=C([CH:20]=[O:21])C=C1.[CH:10](=[N+:11]=[N-:12])[C:62]1=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]1>>C1=CC=C([CH:20]([CH:10]([N+:11]#[N:12])[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)[O-:21])C=C1 10,11=10,20;12=11,12;20,21=21"
"C1C[O:33][C:22](=[O:23])[CH:21]=[CH:20]1.CC[O:72][C:61]([C:10]1=[C:11]([O-:12])CCCCC1)=[O:62]>>CC[O:72][C:61]([C:10]1([CH:20]2CC[O:33][C:22]([O-:23])=[CH:21]2)CCCCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1CCC[NH:10]1.C[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C(C)(C)C)C=C1>>CC1CCC[NH+:10]1[CH:20]([CH:21]=[C:22](C1=[N+](C)C=CN1C(C)(C)C)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"CC(C)[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)=[O:23].C[N:12]1[N:11]=[N:10][C:61]2=[C:62]1C=CC=C2>>CC(C)[C:22](=[CH:21][CH:20]([N:10]1[N:11]=[N+:12](C)[C:62]2=[C:61]1C=CC=C2)[C:31]1=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]1)[O-:23] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CN2CC[C:33]3=[CH:32][C:31]([CH+:20][C:41]4=[CH:42][C:43]5=[C:44]6N(CCC[C:45]6=[CH:46]4)CC5)=[CH:36][C:35](=[C:34]23)C1.CC(C)(C)[C:11](=[CH2:10])[NH:12][C:63](C)=[O:64]>>CC(C)(C)[C:11]([CH2:10][CH:20]([C:31]1=[CH:36][C:35]2=[C:34]3N(CCC2)CC[C:33]3=[CH:32]1)[C:41]1=[CH:42][C:43]2=[C:44]3N(CCC[C:45]3=[CH:46]1)CC2)=[NH+:12][C:63](C)=[O:64] 10,11=10,20;12=11,12"
"CN(C)C[C@@H]1CCC[NH:10]1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]\[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C2=CC=CC=C21>>CN(C)C[C@@H]1CCC[NH+:10]1[CH:20]([C:21]1=[CH:22][N:23](C)C2=CC=CC=C21)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10=20;20,21=21,22;22,23=23"
"CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:22](=[O:23])[O:39]1.CC1=CC=[C:10]([B:11]2[O:12]C(C)(C)C(C)(C)[O:62]2)O1>>CC1(C)C(C)(C)[O:62][B:11]=[O+:12]1.CC1=CC=[C:10]([CH:20]([C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)O1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O-:10])=[CH:62]1.N#C[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[CH:21]/[C:22](C2=CC=CC=C2)=[O:23])[CH:36]=[CH:35]1>>CO[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([O:10][CH:20]([CH:21]=[C:22](C2=CC=CC=C2)[O-:23])[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)=[CH:62]1 10=20;20,21=21,22;22,23=23"
